US07829560B2
3-Fluoro-5-morpholin-4-yl-N-(4-{[2-(3-oxopiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)benzamide (Compound B368).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperazin-2-one according to conditions described in general procedure C. Mp: 108-110° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.14-3.35 (m, 8 H), 3.73-3.78 (m, 6 H), 6.37 (d, J=5.5 Hz, 1 H), 7.03-7.06 (m, 2 H), 7.26 (d, J=8.5 Hz, 1 H), 7.44-7.63 (m, 4 H), 7.84-7.86 (m, 1 H), 8.00-8.04 (m, 2H), 8.35 (d, J=5.1Hz, 1 H), 10.51 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperazin-2-one | N1C(CNCC1)=O | C4H8N2O
product | 3-Fluoro-5-morpholin-4-yl-N-(4-{[2-(3-oxopiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CC(NCC2)=O)C=C(C1)N1CCOCC1 | C29H27FN6O4
